US06410684B1
Acetamido(4-acetamido-2-butynyl)-malonic acid diethyl ester (7.64 g) was dissolved in a mixture of acetic acid (140 ml) and a 6M hydrochloric acid solution (290 ml), and heated overnight at 95° C. The mixture was concentrated in vacuo. The residue was crystallized from ethanol/water yielding 2,6-diamino-4-hexynoic acid dihydrochloride as a crystalline powder (4.0 g).

reactant | Acetamido(4-acetamido-2-butynyl)-malonic acid diethyl ester | 7.64 g | C(C)OC(C(C(=O)OCC)(CC#CCNC(C)=O)NC(C)=O)=O | C15H22N2O6
reactant | hydrochloric acid | 6M, 290 ml | Cl | ClH
solvent | acetic acid | 140 ml | C(C)(=O)O | C2H4O2
product | 2,6-diamino-4-hexynoic acid dihydrochloride | 4.0 g | Cl.Cl.NC(C(=O)O)CC#CCN | InChI=1S/C6H10N2O2.2ClH/c7-4-2-1-3-5(8)6(9)10;;/h5H,3-4,7-8H2,(H,9,10);2*1H
